US06472412B1
Water (4 drops is added to a solution of 4-cyclopentyloxy-5-difluoromethoxy-2-trityloxypyridine (900 mg) in glacial acetic acid (20 mL) and the mixture heated at 60° C. for 18 hours. After cooling the mixture is evaporated to dryness and the residue partitioned between water and ethyl acetate. The organic phase is dried over magnesium sulphate and evaporated to give a pale yellow solid which is purified by flash chromatography (gradient elution using n-pentane/ethyl acetate 7:3 v/v to n-pentane/ethyl acetate 2:3 v/v on silica) to give 4-cyclopentyloxy-5-difluoromethoxy-2-hydroxymethylpyridine (250 mg) as a white solid, m.p. 85-6° C.

reactant | Water | O | H2O
reactant | 4-cyclopentyloxy-5-difluoromethoxy-2-trityloxypyridine | 900 mg | C1(CCCC1)OC1=CC(=NC=C1OC(F)F)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H27F2NO3
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-cyclopentyloxy-5-difluoromethoxy-2-hydroxymethylpyridine | 250 mg | C1(CCCC1)OC1=CC(=NC=C1OC(F)F)CO | C12H15F2NO3
